US04689338
To 40 ml of cold N,N-dimethylformamide (10°-20° C.) was added slowly 5.9 g (0.0385 mole) of phosphorus oxychloride with swirling, the temperature of the mixture being maintained at 10-20° C. 1-Isobutyl-1H-imidazo[4,5-c]quinolin-5-oxide (6.2 g; 0.0257 mole) from Step (C) above was added gradually with swirling and cooling. After addition was complete, the solution was allowed to stand at room temperature for about 30 minutes with occasional swirling. The solution was then heated on a steam bath for thirty minutes. After allowing it to cool, the solution was poured onto ice with stirring, and the resulting mixture was brought to pH 8-9 with concentrated ammonium hydroxide. The resulting off-white solid was filtered, washed with water, rinsed with ether, and dried to provide 6.0 g of crude 4-chloro-1-isobutyl-1H-imidazo[4,5-c]quinoline having a m.p. of 135°-138° C.

reactant | phosphorus oxychloride | 0.0385 mole, 5.9 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-Isobutyl-1H-imidazo[4,5-c]quinolin-5-oxide | 0.0257 mole, 6.2 g | C(C(C)C)N1C=NC=2C=[N+](C=3C=CC=CC3C21)[O-] | C14H15N3O
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 4-chloro-1-isobutyl-1H-imidazo[4,5-c]quinoline | 6.0 g | ClC1=NC=2C=CC=CC2C2=C1N=CN2CC(C)C | C14H14ClN3
